US09353107B2
Step-iii: 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(4-methylpiperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
To the solution of 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.16 mmol) and paraformaldehyde (10 mg, 0.32 mmol) in dichloroethane was added Na(OAc)3BH (68 mg, 0.32 mmol) and stirred at RT overnight. Distilled off the solvent to get 95 mg (95.0% yield) of the titled compound after purification by column (Silica gel 60/120) using 5% methanol in dichloromethane as eluent. MS: m/z=640.2 (M+1).

reactant | 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.16 mmol, 100 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C33H29F2N7O2S
reactant | paraformaldehyde | 0.32 mmol, 10 mg | C=O | CH2O
reactant | Na(OAc)3BH | 0.32 mmol, 68 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(4-methylpiperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 95 mg, 95.0% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCN(CC3)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C34H31F2N7O2S
